US04426379
85 gm of 1-methylcyclopropane carboxylic acid hydrazide was added to methylene chloride on a 3-neck 2-liter round bottom flask. The system was first cooled to 0°-5° C. and 590.5 gm of a 12.5% solution of phosgene added dropwise over a period of time. The system was then heated at reflux for 7 hours. The methylene chloride was removed by stripping. The product was washed with petroleum ether and filtered to give 66.6 gm of 2-oxo-5-(1'-methylcyclopropyl)-1,3,4-oxadiazoline as light brown crystals, m.p. 68°-70° C.

reactant | 1-methylcyclopropane carboxylic acid hydrazide | 85 gm | CC1(CC1)C(=O)NN | C5H10N2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-oxo-5-(1'-methylcyclopropyl)-1,3,4-oxadiazoline | 66.6 gm | O=C1OC(N=N1)C1(CC1)C | C6H8N2O2
